US07517896B2
XIII: Tert-butyl 4-({[2-(2-{[4-(2-phenylethyl)benzyl]oxy}phenyl)ethyl]amino}-methyl)benzoate
This compound was prepared analogously to Ex. I.1 from 2-(2-{[4-(2-phenylethyl)-benzyl]oxy}phenyl)ethylamine and tert-butyl 4-formylbenzoate.

reactant | 2-(2-{[4-(2-phenylethyl)-benzyl]oxy}phenyl)ethylamine | C1(=CC=CC=C1)CCC1=CC=C(COC2=C(C=CC=C2)CCN)C=C1 | C23H25NO
reactant | tert-butyl 4-formylbenzoate | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
product | Tert-butyl 4-({[2-(2-{[4-(2-phenylethyl)benzyl]oxy}phenyl)ethyl]amino}-methyl)benzoate | C1(=CC=CC=C1)CCC1=CC=C(COC2=C(C=CC=C2)CCNCC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C35H39NO3
